US09303023B2
A solution of 2-mercapto-5-methylpyrimidine-4,6-diol (2.08 g, 13.14 mmol) in 2 N aq. NaOH-solution (19.7 mL, 39.41 mmol) was cooled to 0° C., then MeI (2.07 mL, 32.84 mmol) was added dropwise and the resulting mixture was stirred at 0° C. for 1 h 40 and at rt for 2 h. The reaction mixture was concentrated to yield 5-methyl-2-(methylthio)pyrimidine-4,6-diol as a white solid which was used in the next step without further purification. LC-MS conditions

reactant | 2-mercapto-5-methylpyrimidine-4,6-diol | 13.14 mmol, 2.08 g | SC1=NC(=C(C(=N1)O)C)O | C5H6N2O2S
reactant | NaOH | 39.41 mmol, 2 N, 19.7 mL | [OH-].[Na+]
reactant | MeI | 32.84 mmol, 2.07 mL | CI | CH3I
product | 5-methyl-2-(methylthio)pyrimidine-4,6-diol | CC=1C(=NC(=NC1O)SC)O | C6H8N2O2S
